US07544699B2
A solution of 3-(3′-chloro-4′-fluoro-biphenyl-4-yl)-(2S)-{[6-(4-trifluoromethyl-phenoxy)-isoquinoline-3-carbonyl]-amino}-propionic acid methyl ester (20 mg, 0.0321 mmol) was treated with LiOH (5 mg, 0.128 mmol) by the General Procedure to give 15 mg of 3-(3′-Chloro-4′-fluoro-biphenyl-4-yl)-(2S)-{[6-(4-trifluoromethyl-phenoxy)-isoquinoline-3-carbonyl]-amino}-propionic acid as a white solid.

reactant | 3-(3′-chloro-4′-fluoro-biphenyl-4-yl)-(2S)-{[6-(4-trifluoromethyl-phenoxy)-isoquinoline-3-carbonyl]-amino}-propionic acid methyl ester | 0.0321 mmol, 20 mg | COC([C@H](CC1=CC=C(C=C1)C1=CC(=C(C=C1)F)Cl)NC(=O)C=1N=CC2=CC=C(C=C2C1)OC1=CC=C(C=C1)C(F)(F)F)=O | C33H23ClF4N2O4
reactant | LiOH | 0.128 mmol, 5 mg | [Li+].[OH-]
product | 3-(3′-Chloro-4′-fluoro-biphenyl-4-yl)-(2S)-{[6-(4-trifluoromethyl-phenoxy)-isoquinoline-3-carbonyl]-amino}-propionic acid | 15 mg | ClC=1C=C(C=CC1F)C1=CC=C(C=C1)C[C@@H](C(=O)O)NC(=O)C=1N=CC2=CC=C(C=C2C1)OC1=CC=C(C=C1)C(F)(F)F | C32H21ClF4N2O4
